US20010044436A1
Reaction of tert-butyl 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate and 2-amino-3-nitro-6-(2-amino-ethylamino)pyridine gave tert-butyl 2-({2-[(6-amino-5-nitro(2-pyridyl))amino]-ethyl}amino)-4-(2,4-dichlorophenyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate.

reactant | tert-butyl 4-(2,4-dichlorophenyl)-2-(methylsulfonyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1C2=C(N=C(N1)S(=O)(=O)C)CCN(C2)C(=O)OC(C)(C)C | C19H21Cl2N3O4S
reactant | 2-amino-3-nitro-6-(2-amino-ethylamino)pyridine | NC1=NC(=CC=C1[N+](=O)[O-])NCCN | C7H11N5O2
product | tert-butyl 2-({2-[(6-amino-5-nitro(2-pyridyl))amino]-ethyl}amino)-4-(2,4-dichlorophenyl)-5,6,7,8-tetrahydropyridino[4,3-d]pyrimidine-6-carboxylate | NC1=C(C=CC(=N1)NCCNC=1N=C(C2=C(N1)CCN(C2)C(=O)OC(C)(C)C)C2=C(C=C(C=C2)Cl)Cl)[N+](=O)[O-] | C25H28Cl2N8O4
